US05266283
3-t-amyl-5-t-butylsalicylaldehyde
2-t-amyl-4-t-butylphenol (53 g, 0.24 mole) is dissolved in 150 ml absolute ethanol in a 1 L round bottom flask equipped with a water-cooled condenser. Sodium hydroxide (96 g, 2.4 moles) is dissolved in 100 ml water, and the hot solution is added to the solution of the phenol. Chloroform (57 g, 0.48 mole) is added in 1 ml portions over a 45-minute period. The resulting yellow-brown mixture is stirred 1 hour as it cools to ambient temperature. The mixture is diluted into 500 ml of 1M sulfuric acid and extracted with 200 ml hexanes. The organic layer is isolated in a separatory funnel and dried over anhydrous magnesium sulfate. The mixture is filtered and rotoevaporated to a thick syrup. A typical yield for this reaction is 30%. The product is used without further purification.

reactant | 2-t-amyl-4-t-butylphenol | 0.24 mole, 53 g | C(C)(C)(CC)C1=C(C=CC(=C1)C(C)(C)C)O | C15H24O
reactant | Sodium hydroxide | 2.4 moles, 96 g | [OH-].[Na+]
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | Chloroform | 0.48 mole, 57 g | C(Cl)(Cl)Cl | CHCl3
reactant | sulfuric acid | 1M, 500 ml | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | water | 100 ml | O | H2O
product | 3-t-amyl-5-t-butylsalicylaldehyde | C(C)(C)(CC)C1=C(C(C=O)=CC(=C1)C(C)(C)C)O | C16H24O2
